* LM318 Op Amp Model
* Version: 004 
* Date: 11/28/2018
* Author: Shtybel Nazar
* E-mail: nazar@s-audio.systems
*
* LM318NS_SN - National Semiconductor
* LM318TI_SN - Texas Instruments
* LT318A_SN - Linear Technology
* 
* The following parameters are modeled:
* 1. Open loop gain and phase with RL and CL effects
* 2. AC/DC Common mode rejection ratio
* 3. AC/DC Power supply rejection ratio
* 4. Slew rate
* 5. Input voltage noise with 1/f
* 6. Input curent noise with 1/f
* 7. Input bias current with common mode and temperature effects
* 8. Input offset current with temperature effects
* 9. Input offset voltage with temperature effects
* 10. Input impedance
* 11. Output current through the supply rails
* 12. Output current limit with temperature effects 
* 13. Output voltage swing from rails with RL effects
* 14. Output impedance
* 15. Quiescent current vs Supply voltage with temperature effects
* 16. Maximum supply voltage breakdown
* 17. Overload recovery / No phase reversal
* 18. Input common mode voltage range
*
* Connections:
*                Non-Inverting Input
*                | Inverting Input
*                | | +Supply Voltage
*                | | | -Supply Voltage
*                | | | | Output
*                | | | | | 
.SUBCKT LM318NS_SN 1 2 3 4 5

D1 8 10 DX
D3 7 10 DX
D2 9 8 DX
D4 9 7 DX
E4 7 19 17 0 1
R9 16 15 1
R7 11 12 1
R8 13 11 1
G3 0 15 11 14 0.00001
L1 16 0 17.5u
E1 12 0 1 0 1
E2 13 0 2 0 1
E5 19 22 21 0 1
R13 0 21 8.5k
E3 14 4 3 4 0.5
R10 0 16 0.55k
C2 0 2 3p
C1 1 0 3p
C3 1 2 1.1p
E6 22 25 26 0 1
G2 2 0 6 0 0.8
R4 6 0 1E-6 TC=-2e-3
I1 0 6 0.15
G1 1 0 6 0 1
R2 1 2 3Meg
R1 0 1 200Meg
R3 2 0 200Meg
R24 39 0 1
C4 39 0 95E-5
G10 0 39 36 0 1
G9 0 36 30 8 200000
R23 36 0 1
D9 36 37 DX
D11 38 36 DX
G16 49 3 3 42 0.01
G17 4 49 42 4 0.01
R32 3 49 100
R33 49 4 100
R34 56 49 1
G15 48 4 42 49 0.01
G14 47 4 49 42 0.01
D17 3 48 DX
D15 3 47 DX
D16 4 47 DY
D18 4 48 DY
D19 49 54 DX
E13 54 3 51 49 1000
V7 50 51 0.8
D20 55 49 DX
E14 55 4 53 49 1000
V8 53 52 1.5
E11 3 50 49 56 65
G11 0 40 39 0 1
R25 40 0 1
C5 57 0 2.6525E-7
V3 20 0 0.235
D5 20 21 DN
R30 47 0 1G
R31 48 0 1G
R20 0 34 0.0000025
V5 33 0 0.235
D7 33 34 DNC
G7 0 2 34 0 1
R19 0 32 0.0000025
V4 31 0 0.235
D6 31 32 DNC
G6 0 1 32 0 1
G12 0 41 40 0 1
R26 41 0 1
C6 41 0 2200p
C8 49 42 1p
D13 42 43 DX
E9 43 0 45 42 1000
D14 44 42 DX
E10 44 0 46 42 1000
R21 3 4 77k
D8 4 3 DB
G8 3 4 35 0 1
R22 0 35 1 TC=-1e-3
I3 0 35 0.0048
E8 25 30 29 0 1
R18 0 29 1 TC=-2e-3
I2 29 0 0.0061
L5 56 5 150n
E12 4 52 49 56 65
G4 0 23 3 4 0.00007
R14 24 23 1
L3 24 0 250u
R15 0 24 10k
G5 0 26 23 0 1
R16 27 26 1
L4 27 0 0.5u
R17 0 27 5
R28 49 45 1 TC=-3.4e-3
I4 49 45 1.05
R29 49 46 1 TC=-3.4e-3
I5 46 49 1.05
G13 0 42 41 0 1
R27 42 0 1
C7 42 0 2200p
R5 7 1 50
R6 8 2 50
V2 3 10 2.5
V1 9 4 4
R11 18 17 1
G18 0 17 15 0 1
L2 18 0 2.6u
R12 0 18 43
R36 40 57 1
D10 0 37 DSRP
D12 38 0 DSRN

.model DX D(IS=1E-15)
.model DY D(IS=1E-15 BV=50)
.model DN D(KF=400e-14 T_ABS=27)
.model DNC D(KF=200e-4 T_ABS=27)
.model DB D(BV=46 T_ABS=27)
.model DSRP D(BV=185K T_ABS=27)
.model DSRN D(BV=135K T_ABS=27)

.ENDS LM318NS_SN


.SUBCKT LM318TI_SN 1 2 3 4 5

D1 8 10 DX
D3 7 10 DX
D2 9 8 DX
D4 9 7 DX
E4 7 19 17 0 1
R9 16 15 1
R7 11 12 1
R8 13 11 1
G3 0 15 11 14 0.00001
L1 16 0 58u
E1 12 0 1 0 1
E2 13 0 2 0 1
E5 19 22 21 0 1
R13 0 21 8.5k
E3 14 4 3 4 0.5
R10 0 16 10k
C2 0 2 3p
C1 1 0 3p
C3 1 2 1.1p
E6 22 25 26 0 1
G2 2 0 6 0 0.8
R4 6 0 1E-6 TC=-2e-3
I1 0 6 0.15
G1 1 0 6 0 1
R2 1 2 3Meg
R1 0 1 200Meg
R3 2 0 200Meg
R24 39 0 1
C4 39 0 82E-5
G10 0 39 36 0 1
G9 0 36 30 8 200000
R23 36 0 1
D9 36 37 DX
D11 38 36 DX
G16 49 3 3 42 0.008
G17 4 49 42 4 0.008
R32 3 49 125
R33 49 4 125
R34 56 49 1
G15 48 4 42 49 0.01
G14 47 4 49 42 0.01
D17 3 48 DX
D15 3 47 DX
D16 4 47 DY
D18 4 48 DY
D19 49 54 DX
E13 54 3 51 49 1000
V7 50 51 0.8
D20 55 49 DX
E14 55 4 53 49 1000
V8 53 52 1.5
E11 3 50 49 56 65
G11 0 40 39 0 1
R25 40 0 1
C5 57 0 1.25E-7
V3 20 0 0.235
D5 20 21 DN
R30 47 0 1G
R31 48 0 1G
R20 0 34 0.0000025
V5 33 0 0.235
D7 33 34 DNC
G7 0 2 34 0 1
R19 0 32 0.0000025
V4 31 0 0.235
D6 31 32 DNC
G6 0 1 32 0 1
G12 0 41 40 0 1
R26 41 0 1
C6 41 0 150p
C8 49 42 1p
D13 42 43 DX
E9 43 0 45 42 1000
D14 44 42 DX
E10 44 0 46 42 1000
R21 3 4 77k
D8 4 3 DB
G8 3 4 35 0 1
R22 0 35 1 TC=-1e-3
I3 0 35 0.0048
E8 25 30 29 0 1
R18 0 29 1 TC=-2e-3
I2 29 0 0.0055
L5 56 5 150n
E12 4 52 49 56 65
G4 0 23 3 4 0.00007
R14 24 23 1
L3 24 0 250u
R15 0 24 10k
G5 0 26 23 0 1
R16 27 26 1
L4 27 0 0.5u
R17 0 27 5
R28 49 45 1 TC=-3.4e-3
I4 49 45 1.05
R29 49 46 1 TC=-3.4e-3
I5 46 49 1.05
G13 0 42 41 0 1
R27 42 0 1
C7 42 0 150p
R5 7 1 50
R6 8 2 50
V2 3 10 2.5
V1 9 4 4
R11 18 17 1
G18 0 17 15 0 1
L2 18 0 0.45u
R12 0 18 5.5
R36 40 57 0.5
D10 0 37 DSRP
D12 38 0 DSRN

.model DX D(IS=1E-15)
.model DY D(IS=1E-15 BV=50)
.model DN D(KF=400e-14 T_ABS=27)
.model DNC D(KF=200e-4 T_ABS=27)
.model DB D(BV=46 T_ABS=27)
.model DSRP D(BV=160K T_ABS=27)
.model DSRN D(BV=115K T_ABS=27)

.ENDS LM318TI_SN


.SUBCKT LT318A_SN 1 2 3 4 5

D1 8 10 DX
D3 7 10 DX
D2 9 8 DX
D4 9 7 DX
E4 7 19 17 0 1
R9 16 15 1
R7 11 12 1
R8 13 11 1
G3 0 15 11 14 0.00001
L1 16 0 31u
E1 12 0 1 0 1
E2 13 0 2 0 1
E5 19 22 21 0 1
R13 0 21 8.5k
E3 14 4 3 4 0.5
R10 0 16 0.25k
C2 0 2 3p
C1 1 0 3p
C3 1 2 1.1p
E6 22 25 26 0 1
G2 2 0 6 0 0.93
R4 6 0 1E-6 TC=-2e-3
I1 0 6 0.15
G1 1 0 6 0 1
R2 1 2 3Meg
R1 0 1 200Meg
R3 2 0 200Meg
R24 39 0 1
C4 39 0 182E-5
G10 0 39 36 0 1
G9 0 36 30 8 500000
R23 36 0 1
D9 36 37 DX
D11 38 36 DX
G16 49 3 3 42 0.01
G17 4 49 42 4 0.01
R32 3 49 100
R33 49 4 100
R34 56 49 1
G15 48 4 42 49 0.01
G14 47 4 49 42 0.01
D17 3 48 DX
D15 3 47 DX
D16 4 47 DY
D18 4 48 DY
D19 49 54 DX
E13 54 3 51 49 1000
V7 50 51 0.8
D20 55 49 DX
E14 55 4 53 49 1000
V8 53 52 1.5
E11 3 50 49 56 65
G11 0 40 39 0 1
R25 40 0 1
C5 57 0 6.5E-7
V3 20 0 0.235
D5 20 21 DN
R30 47 0 1G
R31 48 0 1G
R20 0 34 0.0000025
V5 33 0 0.235
D7 33 34 DNC
G7 0 2 34 0 1
R19 0 32 0.0000025
V4 31 0 0.235
D6 31 32 DNC
G6 0 1 32 0 1
G12 0 41 40 0 1
R26 41 0 1
C6 41 0 4600p
C8 49 42 1p
D13 42 43 DX
E9 43 0 45 42 1000
D14 44 42 DX
E10 44 0 46 42 1000
R21 3 4 77k
D8 4 3 DB
G8 3 4 35 0 1
R22 0 35 1 TC=-1e-3
I3 0 35 0.0048
E8 25 30 29 0 1
R18 0 29 1 TC=-2e-3
I2 29 0 0.0026
L5 56 5 350n
R35 56 5 30k
E12 4 52 49 56 65
G4 0 23 3 4 0.00007
R14 24 23 1
L3 24 0 250u
R15 0 24 10k
G5 0 26 23 0 1
R16 27 26 1
L4 27 0 0.5u
R17 0 27 5
R28 49 45 1 TC=-3.4e-3
I4 49 45 1.05
R29 49 46 1 TC=-3.4e-3
I5 46 49 1.05
G13 0 42 41 0 1
R27 42 0 1
C7 42 0 4600p
R5 7 1 50
R6 8 2 50
V2 3 10 2.5
V1 9 4 4
R11 18 17 1
G18 0 17 15 0 1
L2 18 0 1u
R12 0 18 30
R36 40 57 0.43
D10 0 37 DSRP
D12 38 0 DSRN

.model DX D(IS=1E-15)
.model DY D(IS=1E-15 BV=50)
.model DN D(KF=400e-14 T_ABS=27)
.model DNC D(KF=200e-4 T_ABS=27)
.model DB D(BV=46 T_ABS=27)
.model DSRP D(BV=355K T_ABS=27)
.model DSRN D(BV=260K T_ABS=27)

.ENDS LT318A_SN
